US06995269B2
Step 1. Preparation of cyclohex-3-en-isocyanate.
A solution of 3-cyclohexenylcarboxylic acid (1 mmol), diphenylphosphoryl azide (1.2 mmol) and triethylamine (2.5 mmol) in toluene was heated at 100° C. for 9 hours.

reactant | 3-cyclohexenylcarboxylic acid | 1 mmol | C1(CC=CCC1)C(=O)O | C7H10O2
reactant | diphenylphosphoryl azide | 1.2 mmol | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 2.5 mmol | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | cyclohex-3-en-isocyanate | [N-]=C=O.C1CC=CCC1 | InChI=1S/C6H10.CNO/c1-2-4-6-5-3-1;2-1-3/h1-2H,3-6H2;/q;-1
